US06455550B1
4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[1-[2-[(trifluoroacetyl)amino]ethyl]cyclopentyl]carbonyl]-L-phenylalanine
To a solution of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(2-aminoethyl)cyclopentyl]carbonyl]-L-phenylalanine (0.041 mmol, 20 mg) in DMF (2 mL) was added 2 equiv. of trifluoroacetic anhydride (0.082 mmol, 17.2 mg) at room temperature. The mixture was stirred for 15 h at room temperature at which time HPLC analysis of the reaction mixture indicated the absence of staring material. Then, without any work-up, it was purified by reverse phase HPLC to afford 5.7 mg (21%) of a white solid. HR MS: (C26H26Cl2N3O5): Obs. mass, 588.1280. Calcd. mass, 588.1269 (M+H).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(2-aminoethyl)cyclopentyl]carbonyl]-L-phenylalanine | 0.041 mmol, 20 mg | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=O)C2(CCCC2)CCN)C(=O)O)C=C1 | C24H27Cl2N3O4
reactant | trifluoroacetic anhydride | 0.082 mmol, 17.2 mg, 2 equiv. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[1-[2-[(trifluoroacetyl)amino]ethyl]cyclopentyl]carbonyl]-L-phenylalanine | 5.7 mg, 21% | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=O)C2(CCCC2)CCNC(C(F)(F)F)=O)C(=O)O)C=C1 | C26H26Cl2F3N3O5
